US04216238
ETHYL-N-(2'-DIETHYLAMINOETHYL)SUCCINAMATE
First, 20 milliliters (0.05 mole) N,N-diethylethylene diamine, 50 milliliters dry methylene chloride, and 5.2 milliliters (0.065 mole) pyridine were combined in a flask. Next, 9.03 grams (0.06 mole) 3-carboethoxy-propionyl chloride was added at -60° C. with stirring. The temperature was allowed to rise to 0° C. The reaction mixture was then washed with a 200 milliliter portion of water and a 100 milliliter portion of saturated sodium carbonate solution. The organic solution was stripped in vacuum to yield 2.0 grams of the desired product. nD30 1.4500.

reactant | N,N-diethylethylene diamine | 0.05 mole, 20 milliliters | C(C)N(CCN)CC | C6H16N2
reactant | pyridine | 0.065 mole, 5.2 milliliters | N1=CC=CC=C1 | C5H5N
reactant | 3-carboethoxy-propionyl chloride | 0.06 mole, 9.03 grams | C(=O)(OCC)CCC(=O)Cl | C6H9ClO3
solvent | methylene chloride | 50 milliliters | C(Cl)Cl | CH2Cl2
product | ETHYL-N-(2'-DIETHYLAMINOETHYL)SUCCINAMATE | 2.0 grams | C(C)OC(CCC(=O)NCCN(CC)CC)=O | C12H24N2O3
